US04194008
N-(2,6-Diisopropyl-phenyl)-N'-tert.-pentyl-thiourea
11.0 g of 2,6-diisopropyl-phenyl isothiocyanate and 10 g of tert.-pentylamine are warmed with 5 ml of triethylamine for 10 minutes at 100°. After standing for 12 hours, the mixture which has partially crystallised out is stirred with petroleum ether and cooled to -10° C., and the product is filtered off and dried.

reactant | 2,6-diisopropyl-phenyl isothiocyanate | 11.0 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=S | C13H17NS
reactant | tert.-pentylamine | 10 g | C(C)(C)(CC)N | C5H13N
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | N-(2,6-Diisopropyl-phenyl)-N'-tert.-pentyl-thiourea | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=S)NC(C)(C)CC | C18H30N2S
